US04254125
In a 250-ml single-necked, round-bottomed flask containing a solution of 3.0 g (75 mmol) of sodium hydroxide in 100 ml of absolute ethanol was added 9.28 g (67 mmol) of 3-nitrophenol at which point the solution turned dark red. To the dark red solution, 10.0 g (66 mmol) of 2,3-dichloropyrazine was added and the resulting solution refluxed for 162 hours. The reaction mixture was cooled and concentrated. Upon pouring the concentrate into approximately 300 ml of water, an off-white solid precipitated which was collected by filtration. Recrystallization from absolute ethanol gave the product, 2-chloro-3-(3-nitrophenoxy)pyrazine, (46% yield) as white needles, mp 119°-121° C.

reactant | sodium hydroxide | 75 mmol, 3.0 g | [OH-].[Na+]
reactant | 3-nitrophenol | 67 mmol, 9.28 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2,3-dichloropyrazine | 66 mmol, 10.0 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-chloro-3-(3-nitrophenoxy)pyrazine | 46% yield | ClC1=NC=CN=C1OC1=CC(=CC=C1)[N+](=O)[O-] | C10H6ClN3O3
